* source ISPAS_MIHAI_ORCAD
R_R12         0 N01036  510 TC=0,0 
R_R11         0 N01165  510k TC=0,0 
R_R10         0 N00985  510k TC=0,0 
R_R7         N00966 N00942  1k TC=0,0 
R_R1         0 N00888  47k TC=0,0 
R_R2         N00908 N00888  47k TC=0,0 
R_R6         N01719 N01708  1k TC=0,0 
R_R8         N00920 N03460  100 TC=0,0 
R_R9         N01731 N01788  47k TC=0,0 
R_R13         0 N01812  47k TC=0,0 
X_HIGH         N01731 N01095 N00908 POT PARAMS: SET=0.95 VALUE=50k
X_MID         N01731 N01719 N00908 POT PARAMS: SET=0.95 VALUE=50k
X_LOW         N01731 N00920 N00908 POT PARAMS: SET=0.9 VALUE=50k
R_R3         N01045 N01052  510 TC=0,0 
R_R4         N01086 N01095  100 TC=0,0 
R_R5         N01146 N01153  330 TC=0,0 
V_V1         N02003 0  AC 0.5
+SIN 0 0.5 1k 0 0 0
V_V2         VCC 0 15Vdc
V_V3         0 -VCC 15Vdc
X_U1D         N00985 N00966 VCC -VCC N00966 LM324
X_U1A         N01036 N01045 VCC -VCC N01045 LM324
X_U1B         N00908 N01731 VCC -VCC N01788 LM324
X_U1C         N01146 N01165 VCC -VCC N01146 LM324
C_C6         N00985 N00942  22n  TC=0,0 
C_C7         N00942 N03460  1u  
C_C10         N01153 N01708  1n  TC=0,0 
C_C2         N01036 N01052  100p  TC=0,0 
C_C8         N01812 N01788  4.7u  TC=0,0 
C_C1         N00888 N02003  4.7u  TC=0,0 
C_C4         N01165 N01153  2.2n  TC=0,0 
C_C3         N01086 N01052  2.2n  TC=0,0 
